US07361677B2
4-[(3,5-Dichloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02120, STX435)
Palladium on charcoal (100 mg, 10% Pd) was added to a solution of 4-[(4-benzyloxy-3,5-dichloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02119, 1.13 g, 2.50 mmol) in MeOH/THF/EtOAc (30 mL/30 mL/40 mL). The mixture was stirred under hydrogen atmosphere (balloon) for 18 h at room temperature. The reaction mixture was filtered through celite and the clear colourless filtrate was concentrated under reduced pressure. The residue was suspended in 2-propanol (20 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 306 mg (34%). 1H-NMR (400 MHz, d6-DMSO) δ=4.97 (s, 2H, —CH2Ar), 6.76 (d, J=9.0 Hz, 2H), 7.31 (s, 2H), 7.77 (d, J=9.0 Hz, 2H), 8.85 (s, 2H), 10.29 (s, 1H, —OH). 13C-NMR (100 MHz, CDCl3) δ=56.57, 103.76, 114.55, 119.69, 122.89, 128.14, 129.46, 134.58, 144.03, 149.46, 151.85. LRMS (FAB+): 360.0 (100, [M+H]+).

reactant | 4-[(4-benzyloxy-3,5-dichloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 2.50 mmol, 1.13 g | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1Cl)Cl | C23H17Cl2N5O
catalyst | Palladium on charcoal | 100 mg | [Pd] | Pd
solvent | MeOH THF EtOAc | 30 mL | CO.C1CCOC1.CCOC(=O)C
product | 4-[(3,5-Dichloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | ClC=1C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C(C1O)Cl | C16H11Cl2N5O
